US06855718B2
Preparation of (R)-5-chloro-7-(3,3-dimethylbut-2-yl)amino-6-(2,4,6-trifluoro-phenyl)-1,2,4-triazolo[1,5-a]pyrimidine
With stirring, a mixture of 1.4 mmol of (R)-3,3-dimethylbut-2-ylamine, 1.4 mmol of triethylamine and 10 ml of dichloromethane was introduced into a mixture of 1.4 mmol of 5,7-dichloro-6-(2,4,6-trifluorophenyl)-1,2,4-triazolo[1,5-a]-pyrimidine in 30 ml of dichloromethane. The reaction mixture was then stirred at room temperature for 16 hours and finally washed with 1 N hydrochloric acid and water. The organic phase was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The crude product was purified by silica gel column chromatography. This gave the title compound in the form of colorless crystals in a yield of 76% (m.p.: 169-171° C.).

reactant | (R)-3,3-dimethylbut-2-ylamine | 1.4 mmol | CC([C@@H](C)N)(C)C | C6H15N
reactant | triethylamine | 1.4 mmol | C(C)N(CC)CC | C6H15N
reactant | 5,7-dichloro-6-(2,4,6-trifluorophenyl)-1,2,4-triazolo[1,5-a]-pyrimidine | 1.4 mmol | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1F)F)F)Cl)N=CN2 | C11H3Cl2F3N4
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-5-chloro-7-(3,3-dimethylbut-2-yl)amino-6-(2,4,6-trifluoro-phenyl)-1,2,4-triazolo[1,5-a]pyrimidine | yield of 76% | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1F)F)F)N[C@H](C)C(C)(C)C)N=CN2 | C17H17ClF3N5
